US04301290
Octahydro-4a-(3-methoxyphenyl)-2-methyl-cis-6(2H)-isoquinolinone [process (b)]
25.93 g (0.1 mol) of octahydro-4a-(3-methoxyphenyl)-cis-6(2H)-isoquinolinone (see Example 1), 100 ml of benzene, 11.2 ml (0.2 mol) of ethylene glycol and 8.1 ml (125 mmol) of methanesulphonic acid are boiled for 3 hours in a water separator. The mixture is cooled, made basic with aqueous ammonia and extracted with methylene chloride. The organic phase is evaporated to dryness to yield octahydro-4a-(3-methoxyphenyl)-cis-6(2H)-isoquinolinone ethylene ketal. The ketal is dissolved in 50 ml of absolute methanol, cooled to 0° C., and 13.91 ml (0.1 mol) of triethylamine and 7.46 ml (0.12 mol) of methyl iodide are added thereto. The mixture is kept at 22° for 1 hour. The mixture, containing octahydro-4a-(3-methoxyphenyl)-2-methyl-cis-6(2H)-isoquinolinone ethylene ketal, is mixed with 20 ml of dioxane and concentrated by evaporation. 100 ml of dioxane and 100 ml of 2 N aqueous hydrochloric acid are added to the residual oil. The resultant mixture is stirred for 2 hours at 40°, made basic with aqueous ammonia, and extracted with toluene. The extracts are concentrated by evaporation to yield the title compound as an oil, which is crystallized as the hydrogen fumarate from ethanol.

reactant | triethylamine | 0.1 mol, 13.91 ml | C(C)N(CC)CC | C6H15N
reactant | methyl iodide | 0.12 mol, 7.46 ml | CI | CH3I
reactant | octahydro-4a-(3-methoxyphenyl)-2-methyl-cis-6(2H)-isoquinolinone ethylene ketal | C1COC2(C[C@]3(CCN(C[C@H]3CC2)C)C2=CC(=CC=C2)OC)O1 | C19H27NO3
reactant | dioxane | 20 ml | O1CCOCC1 | C4H8O2
solvent | methanol | 50 ml | CO | CH4O
product | Octahydro-4a-(3-methoxyphenyl)-2-methyl-cis-6(2H)-isoquinolinone | COC=1C=C(C=CC1)[C@@]12CCN(C[C@H]2CCC(C1)=O)C | C17H23NO2
